US04595685
(a) 5-Chlorosalicylaldehyde
64.25 g (0.5 mole) of p-chlorophenol and 55 g (0.2 mole) of trioctylamine are dissolved in 100 ml of toluene. Under N2, 13 g of tin tetrachloride are added dropwise at 0° C. After 20 min at room temperature, 33 g of dried paraformaldehyde are added, and the mixture is heated at 100° C. for 5 hours. After cooling, the mixture is poured onto 2.5 l of H2O, and the mixture is acidified to pH 2 with 2N HCl and extracted with diethyl ether. The ether phase is washed with saturated NaCl solution and dried with Na2SO4 and concentrated. Chromatography on silica gel using ethyl acetate/cyclohexane (1:6) provides 24 g of the title compound, melting point 99° C.

reactant | p-chlorophenol | 0.5 mole, 64.25 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | trioctylamine | 0.2 mole, 55 g | C(CCCCCCC)N(CCCCCCCC)CCCCCCCC | C24H51N
reactant | tin tetrachloride | 13 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | paraformaldehyde | 33 g | C=O | CH2O
reactant | HCl | 2N | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 2.5 l | O | H2O
product | 5-Chlorosalicylaldehyde | 24 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
